US05648381
2-oximino-1-(4-phenyl semicarbazono)-3-indanone
0.01 mol of 4-phenyl semicarbazide hydrochloride in solution in 10 ml water was added to a solution of 0.01 mol of 2-oximino indan-1,3-dione in 60 ml ethanol. The reaction mixture was refluxed for 1 hour. The precipitate formed was centrifuged when hot, dried and recrystallised from acetonitrile.

reactant | 4-phenyl semicarbazide hydrochloride | 0.01 mol | Cl.C1(=CC=CC=C1)NC(NN)=O
reactant | 2-oximino indan-1,3-dione | 0.01 mol | N(O)=C1C(C2=CC=CC=C2C1=O)=O | C9H5NO3
solvent | water | 10 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-oximino-1-(4-phenyl semicarbazono)-3-indanone | N(O)=C1C(C2=CC=CC=C2C1=O)=NNC(=O)NC1=CC=CC=C1 | C16H12N4O3
